US04632995
50 g (0.256 mole) of phenylphosphonic acid dichloride and 40 g (0.153 mole) of triphenylphosphane were stirred for 12 hours at 230° C. under an atomosphere of nitrogen. Distillation was then carried out at 0.1 kPa until an internal temperature of 200° C. was reached. The distillate obtained was then fractionated using a silvered-jacketed column, 70 cm long, packed with Raschig rings. 25 g of dichlorophenylphosphane were obtained, as well as unreacted phenylphosphonic acid dichloride. This corresponds to a yield of 91% of theory, based on triphenylphosphane employed.

reactant | phenylphosphonic acid dichloride | 0.256 mole, 50 g | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
reactant | triphenylphosphane | 0.153 mole, 40 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | dichlorophenylphosphane | 25 g, yield of 91% | ClP(C1=CC=CC=C1)Cl | C6H5Cl2P
